US08022223B2
5-Bromo-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine (0.070 g, 0.1932 mmol), pyridin-3-ylboronic acid (0.02850 g, 0.2319 mmol), Pd(PPh3)4 (0.02233 g, 0.01932 mmol), DME (10 mL), and 2M sodium bicarbonate (2 mL) were combined, heated to 80° C. and stirred overnight. The reaction mixture was cooled and partitioned between CH2Cl2 and water. The organic layer was dried, filtered, and concentrated. The residue was purified by silica gel chromatography (30-40% EtOAc in hexane) to give N-(4-methylthiazol-2-yl)-3-phenoxy-5-(pyridin-3-yl)pyridin-2-amine. N-(4-methylthiazol-2-yl)-3-phenoxy-5-(pyridin-3-yl)pyridin-2-amine was dissolved in CH2Cl2 and 2M HCl in ether was added to give N-(4-methylthiazol-2-yl)-3-phenoxy-5-(pyridin-3-yl)pyridin-2-amine dihydrochloride (0.050 g, 59.71% yield). 1H NMR (d6-DMSO) δ 9.19 (d, 1H), 8.78 (dd, 1H), 8.70 (m, 2H), 7.93 (m, 2H), 7.42 (t, 2H), 7.18 (t, 1H), 7.12 (d, 2H), 6.74 (s, 1H), 2.28 (s, 3H); Mass spectrum (apci) m/z=361.2 (M+H-2HCl).

reactant | 5-Bromo-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine | 0.1932 mmol, 0.070 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | C15H12BrN3OS
reactant | pyridin-3-ylboronic acid | 0.2319 mmol, 0.02850 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium bicarbonate | 2M, 2 mL | C([O-])(O)=O.[Na+]
catalyst | Pd(PPh3)4 | 0.01932 mmol, 0.02233 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 10 mL | COCCOC | C4H10O2
product | N-(4-methylthiazol-2-yl)-3-phenoxy-5-(pyridin-3-yl)pyridin-2-amine | CC=1N=C(SC1)NC1=NC=C(C=C1OC1=CC=CC=C1)C=1C=NC=CC1 | C20H16N4OS
